US04268510
1,2-dihydro-4-oxo-2-trichloromethylquinazoline-6-carboxylic acid (0.5 g.), ethanol (6 ml.) and concentrated sulphuric acid (3 ml.) were heated together under reflux on a steam bath for 1.5 hours. The reaction mixture was filtered, and the filtrate was poured onto a minimum quantity of ice. The precipitate thus produced was filtered off, washed with water and dried, to give ethyl 1,2-dihydro-4-oxo-2-trichloromethylquinazoline-6-carboxylate, m.p. 243°-244° C.

reactant | 1,2-dihydro-4-oxo-2-trichloromethylquinazoline-6-carboxylic acid | 0.5 g | O=C1NC(NC2=CC=C(C=C12)C(=O)O)C(Cl)(Cl)Cl | C10H7Cl3N2O3
reactant | sulphuric acid | 3 ml | S(O)(O)(=O)=O | H2O4S
reactant | ethanol | 6 ml | C(C)O | C2H6O
product | ethyl 1,2-dihydro-4-oxo-2-trichloromethylquinazoline-6-carboxylate | O=C1NC(NC2=CC=C(C=C12)C(=O)OCC)C(Cl)(Cl)Cl | C12H11Cl3N2O3
